US06825310B2
Synthesis of 2,2-bis[4-{4-(4-chlorobenzoyl)phenoxy}phenyl]-1,1,1,3,3,3-hexafluoropropane (BCPAF)
33.6 g (100 mmol) of 2,2-bis(4-hydroxyphenyl)-1,1,1,3,3,3-hexafluoropropane (bisphenol AF) was measured out in a 11 three-necked flask equipped with an agitator, a Dean-stark tube, a condenser, a three-way cock and a thermometer. The air in the flask was then replaced by dried nitrogen. To the content of the flask were then added 150 ml of N,N-dimethylacetamide and 75 ml of toluene. The mixture was then stirred for dissolution. To the solution was then added 30.4 g (220 mmol) of potassium carbonate. The mixture was then heated to a temperature of 130° C. under reflux. While the resulting water was being boiled together with toluene and removed to the exterior through the Dean-Stark trap, the reaction temperature was then gradually raised to 150° C. After about 1 hour, when most of toluene was removed, the reaction solution was then cooled to a temperature of from 80° C. to 90° C. Subsequently, to the reaction solution was added 58.7 g (250 mmol) of 4-chloro-4′-fluorobenzophenone. The reaction solution was then reacted at a temperature of from 115° C. to 120° C. for 7 hours.

reactant | 2,2-bis(4-hydroxyphenyl)-1,1,1,3,3,3-hexafluoropropane | 100 mmol, 33.6 g | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)O | C15H10F6O2
reactant | N,N-dimethylacetamide | 150 ml | CN(C(C)=O)C | C4H9NO
reactant | potassium carbonate | 220 mmol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-4′-fluorobenzophenone | 250 mmol, 58.7 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8ClFO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-bis[4-{4-(4-chlorobenzoyl)phenoxy}phenyl]-1,1,1,3,3,3-hexafluoropropane | ClC1=CC=C(C(=O)C2=CC=C(OC3=CC=C(C=C3)C(C(F)(F)F)(C(F)(F)F)C3=CC=C(C=C3)OC3=CC=C(C=C3)C(C3=CC=C(C=C3)Cl)=O)C=C2)C=C1 | C41H24Cl2F6O4
